US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-3-methylbutyl)phenyl]isoquinoline dihydrochloride
The resulting 1-(4-ethylpiperazin-1-yl)-3-[4-(3-oxobutyl)phenyl]isoquinoline (0.50 g) was dissolved in tetrahydrofuran (50 ml), and the mixture was stirred under ice-cooling, to which was then added 3.0M methylmagnesium bromide/ether solution (860 μl). The resulting mixture was stirred for 30 min. Then, 3.0M methylmagnesium bromide/ethyl ether solution (860 μl) was additionally added thereto, and the resulting mixture was stirred for 2 hr. An aqueous solution of saturated ammonium chloride was added to the mixture and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 0.21 g of the free compound of the title compound as a colorless viscous oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-[4-(3-oxobutyl)phenyl]isoquinoline | 0.50 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CCC(C)=O | C25H29N3O
reactant | methylmagnesium bromide ether | 3.0M, 860 μl | C[Mg]Br.CCOCC
reactant | methylmagnesium bromide ethyl ether | 3.0M, 860 μl | C[Mg]Br.C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-3-methylbutyl)phenyl]isoquinoline dihydrochloride | 0.21 g | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CCC(C)(C)O | InChI=1S/C26H33N3O.2ClH/c1-4-28-15-17-29(18-16-28)25-23-8-6-5-7-22(23)19-24(27-25)21-11-9-20(10-12-21)13-14-26(2,3)30;;/h5-12,19,30H,4,13-18H2,1-3H3;2*1H
